US05922725
4-Acetyl-2-nitroaniline:
N-(4-acetyl-2-nitrophenyl)acetamide (26.5 g, 11,94 mmol) was added to a mixture of water and concentrated sulfuric acid, 150 ml (1:2). After 15 minutes the mixture was poured into water. The product was filtered off, washed with water and dried.

reactant | N-(4-acetyl-2-nitrophenyl)acetamide | 11,94 mmol, 26.5 g | C(C)(=O)C1=CC(=C(C=C1)NC(C)=O)[N+](=O)[O-] | C10H10N2O4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 4-Acetyl-2-nitroaniline | C(C)(=O)C1=CC(=C(N)C=C1)[N+](=O)[O-] | C8H8N2O3
